US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-chloro-1-benzothiophene-2-carboxamide hydrochloride
176.2 mg (0.83 mmol) of 7-chloro-1-benzothiophene-2-carboxylic acid, 150 mg (0.75 mmol) of R-3-aminoquinuclidine dihydrochloride, 343.7 mg (0.90 mmol) of HATU, 350.5 mg (2.71 mmol) of N,N-diisopropylethylamine and 3.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. The product is dissolved in a mixture of 4M HCl in dioxane and methanol and then concentrated. 175.2 mg (65.1% of theory) of the title compound are obtained.

reactant | 7-chloro-1-benzothiophene-2-carboxylic acid | 0.83 mmol, 176.2 mg | ClC1=CC=CC=2C=C(SC21)C(=O)O | C9H5ClO2S
reactant | HATU | 0.90 mmol, 343.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 2.71 mmol, 350.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-7-chloro-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC=C1Cl | InChI=1S/C16H17ClN2OS.ClH/c17-12-3-1-2-11-8-14(21-15(11)12)16(20)18-13-9-19-6-4-10(13)5-7-19;/h1-3,8,10,13H,4-7,9H2,(H,18,20);1H/t13-;/m0./s1
